US06355257B1
A solution of the compound prepared in Example 1-(2) (2.5 g, 5.68 mmol) was treated with undecanoic acid (1.16 g, 6.25 mmol) and EDC.MeI (2.08 g, 7.0 mmol) in CH2Cl2 (60 mL) and then deprotected as described in Example 1-(3) with zinc (9.3 g, 142 mmol) in AcOH (40 mL) to afford (R)-3-undecanoyloxytetradecanoic acid as a colorless oil: 1H NMR (CDCl3) δ 0.89 (t, 6 H, J=6.7 Hz), 1.0-1.75 (m, 44 H), 2.29 (m, 2 H), 2.61 (m, 2 H), 5.22 (m, 1 H).

reactant | undecanoic acid | 6.25 mmol, 1.16 g | C(CCCCCCCCCC)(=O)O | C11H22O2
reactant | EDC
reactant | MeI | 7.0 mmol, 2.08 g | CI | CH3I
reactant | AcOH | 40 mL | CC(=O)O | C2H4O2
solvent | CH2Cl2 | 60 mL | C(Cl)Cl | CH2Cl2
catalyst | zinc | 142 mmol, 9.3 g | [Zn] | Zn
product | (R)-3-undecanoyloxytetradecanoic acid | C(CCCCCCCCCC)(=O)O[C@@H](CC(=O)O)CCCCCCCCCCC | C25H48O4
